US05891895
A mixture of 2-(3-bromo-4-fluorobenzoyl)-3-methoxymethoxypyridine (5.68 g), 3.6N-sulfuric acid (6.0 mL) and acetone (30 mL) was refluxed for 3 hours. The reaction mixture was then poured into water, neutralized with a saturated aqueous solution of sodium hydroxide, and extracted with ethyl acetate. The extract was washed with water and a saturated aqueous saline solution, successively, and dried (sodium sulfate) and then concentrated. The concentrate was purified by means of a silica gel column (ethyl acetate--hexane) to afford 2-(3-bromo-4-fluorobenzoyl)-3-hydroxypyridine (4.51 g) (compound C-5). Physical properties and spectrum date of the product are shown in Table 5 and Table 6.

reactant | 2-(3-bromo-4-fluorobenzoyl)-3-methoxymethoxypyridine | 5.68 g | BrC=1C=C(C(=O)C2=NC=CC=C2OCOC)C=CC1F | C14H11BrFNO3
reactant | sulfuric acid | 6.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | acetone | 30 mL | CC(=O)C | C3H6O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2-(3-bromo-4-fluorobenzoyl)-3-hydroxypyridine | 4.51 g | BrC=1C=C(C(=O)C2=NC=CC=C2O)C=CC1F | C12H7BrFNO2
